US08048878B2
Synthesis of methyl (4R*,9aS*)-6-oxo-4-(3,4,5-trifluorophenyl)octahydropyrido[1,2-a]pyrazine-2-carboxylate
Platinum oxide (10 mg) was added to a solution of methyl (4R*,9aS*)-6-oxo-4-(3,4,5-trifluorophenyl)-1,3,4,6,7,9a-hexahydropyrido[1,2-a]pyrazine-2-carboxylate obtained by performing the above method again (292 mg) in methanol (5 mL), and the reaction solution was stirred in a hydrogen atmosphere at room temperature for three hours. The reaction solution was filtered through celite, and the filtrate was concentrated under reduced pressure to obtain 255 mg of the title compound. The property values of the compound are as follows.

reactant | methyl (4R*,9aS*)-6-oxo-4-(3,4,5-trifluorophenyl)-1,3,4,6,7,9a-hexahydropyrido[1,2-a]pyrazine-2-carboxylate | O=C1CC=C[C@@H]2N1[C@@H](CN(C2)C(=O)OC)C2=CC(=C(C(=C2)F)F)F | C16H15F3N2O3
reactant | hydrogen | [H][H] | H2
solvent | methanol | 5 mL | CO | CH4O
catalyst | Platinum oxide | 10 mg | [Pt]=O
product | methyl (4R*,9aS*)-6-oxo-4-(3,4,5-trifluorophenyl)octahydropyrido[1,2-a]pyrazine-2-carboxylate | 255 mg | O=C1CCC[C@@H]2N1[C@@H](CN(C2)C(=O)OC)C2=CC(=C(C(=C2)F)F)F | C16H17F3N2O3
